US06927221B2
4-Mesityl-3-pyridinamine
A 4N hydrochloric acid solution in ethyl acetate (100 mL) was added to a solution of tert-butyl N-(4-mesityl-3-pyridyl)carbamate (19.5 g, 62 mmol) in ethyl acetate (100 mL) followed by stirring for one hour. The solution was neutralized with a 5N aqueous solution of sodium hydroxide, extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane), to give the title compound (500 mg) as white crystals.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | tert-butyl N-(4-mesityl-3-pyridyl)carbamate | 62 mmol, 19.5 g | C1(=C(C(=CC(=C1)C)C)C1=C(C=NC=C1)NC(OC(C)(C)C)=O)C | C19H24N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Mesityl-3-pyridinamine | 500 mg | C1(=C(C(=CC(=C1)C)C)C1=C(C=NC=C1)N)C | C14H16N2
